US06777440B2
Compound 1: 3-(Benzyl-methoxy-carbamoyl)-2-hydroxy-acrylic acid
A solution of N-benzyl-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-acetamide (0.267 g, 0.917 mmol) in tetrahydrofuran (10 ml) was treated at 22° C. with 2 ml (2 mmol) of 1 M aqueous sodium hydroxide. After 1 h, the reaction mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with brine, dried (magnesium sulfate) and the solvent evaporated in vacuo to give 0.220 g (95% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ (ppm) : 3.70 (3H, s), 4.85 (2H, s), 6.57 (1H, s), 7.32-7.37 (5H, m).

reactant | N-benzyl-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-acetamide | 0.917 mmol, 0.267 g | C(C1=CC=CC=C1)N(C(C=C1OC(OC1=O)(C)C)=O)OC | C15H17NO5
reactant | sodium hydroxide | 2 mmol, 1 M, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(Benzyl-methoxy-carbamoyl)-2-hydroxy-acrylic acid | 0.220 g, 95% yield | C(C1=CC=CC=C1)N(C(=O)C=C(C(=O)O)O)OC | C12H13NO5
